US05252745
To a magnetically stirred solution of N-t-butoxycarbonyl-L-alanine (5.00 g., 0.026 mole) and iodopropargyl alcohol (4.81 g., 0.026 mole) in anhydrous dichloromethane (100 ml.) cooled to 0° C. with an ice-bath was added 4-dimethylaminopyridine (0.32 g., 0.0026 mole) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (5.57 g., 0.029 mole). The reaction mixture continued to stir at 0° C. for one hour, and was then stored in a refrigerator at 5° C. overnight. The reaction mixture was transferred to a separatory funnel and diluted to double volume (200 ml.) with dichloromethane, then washed successively with 100 ml. of water, 3×100 ml. of 10% aqueous potassium hydrogen sulfate, 100 ml. of water, 3×100 ml. of saturated aqueous sodium bicarbonate, 3×100 ml. of water and a final wash with 100 ml. of saturated aqueous sodium chloride. The organic layer was dried with magnesium sulfate, filtered and concentrated in vacuo with a rotary evaporator to a clear colorless oil which crystallized on standing. A quantitative yield (9.34 g.) of N-t-butoxycarbonyl-L-alanine iodopropargyl ester was obtained. m.p.=71°-73° C. 1H-NMR (200 MHz, DMSOd6) δ=1.25 ppm, d, 3H; 1.40, s, 9H; 4.01, m, 1H; 4.85, s, 2H; 7.33, d, 1H. IR (CHCl3) 1170, 1375, 1400, 1715, 1750, 2205 cm-1.

reactant | N-t-butoxycarbonyl-L-alanine | 0.026 mole, 5.00 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | iodopropargyl alcohol | 0.026 mole, 4.81 g | IC(C#C)O | C3H3IO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.029 mole, 5.57 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.0026 mole, 0.32 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-t-butoxycarbonyl-L-alanine iodopropargyl ester | 9.34 g, quantitative yield | IC(C#C)OC([C@@H](NC(=O)OC(C)(C)C)C)=O | C11H16INO4
